US07468369B2
1.98 g of piperazine, 1.0 g of 1-bromo-2,5-dimethoxybenzene, 800 mg of 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene, 310 mg of palladium(II) acetate and 2.25 g of cesium carbonate are dissolved in 30 ml of 1,4-dioxane and stirred at 100° C. under an argon atmosphere for 24 hours. The reaction mixture is extracted with 50 ml of saturated sodium bicarbonate solution and 50 ml of saturated sodium chloride solution, and the combined aqueous phases are basified with 2N sodium hydroxide solution and extracted five times with 50 ml of dichloromethane each time. The combined organic phases are dried over MgSO4 and then the solvent is removed in vacuo. 500 mg of 1-(2,5-dimethoxyphenyl)piperazine are obtained as an amorphous solid.

reactant | piperazine | 1.98 g | N1CCNCC1 | C4H10N2
reactant | 1-bromo-2,5-dimethoxybenzene | 1.0 g | BrC1=C(C=CC(=C1)OC)OC | C8H9BrO2
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 800 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 2.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 310 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(2,5-dimethoxyphenyl)piperazine | 500 mg | COC1=C(C=C(C=C1)OC)N1CCNCC1 | C12H18N2O2
